US08648066B2
A solution of 5-bromo-2-ethoxypyridin-3-amine (53 mg, 0.25 mmol) and diisopropylethylamine (96 uL, 0.55 mmol) in dichloromethane (1 mL) was cooled to 0° C. and methanesulfonyl chloride (39 uL, 0.5 mmol) was added. The mixture was allowed to warm to rt over 15 h, and then water was added. The resulting mixture was extracted with dichloromethane. The organic extract was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in methanol (500 uL) and dioxane (500 uL), and then sodium hydroxide (2 M, 190 uL, 0.38 mmol) was added. The mixture was heated to 60° C. and 3 drops of aqueous sodium hydroxide (50%) were added. After stirring a further 30 min, the mixture was cooled to rt. Dilution with water was followed by acidification with aqueous citric acid (10%) and then two extractions with ethyl acetate. The combined organic extracts were washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (gradient 100% hexanes to 70% hexanes:30% ethyl acetate) to provide N-(5-bromo-2-ethoxypyridin-3-yl)methanesulfonamide (32.1 mg, 0.11 mmol, 43% yield) as a colorless film. 1H NMR (400 MHz, CDCl3) δ 7.95 (d, 1H), 7.89 (d, 1H), 6.75 (br s, 1H), 4.42 (q, 2H), 3.05 (s, 3H), 1.41 (t, 3H); MS (EI) for C8H11BrN2O3S: 295, 297 (Br isotopes, MH+).

reactant | 5-bromo-2-ethoxypyridin-3-amine | 0.25 mmol, 53 mg | BrC=1C=C(C(=NC1)OCC)N | C7H9BrN2O
reactant | diisopropylethylamine | 0.55 mmol, 96 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.5 mmol, 39 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 0.38 mmol, 2 M, 190 uL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dioxane | 500 uL | O1CCOCC1 | C4H8O2
catalyst | sodium hydroxide | 3 drops | [OH-].[Na+]
solvent | water | O | H2O
product | N-(5-bromo-2-ethoxypyridin-3-yl)methanesulfonamide | 0.11 mmol, 32.1 mg, 43% yield | BrC=1C=C(C(=NC1)OCC)NS(=O)(=O)C | C8H11BrN2O3S
